US05550125
2.2. N-(5-Fluoro-2-hydroxyphenyl)trifluoroacetamide.
A suspension of 260 ml of diethyl ether and 21 g (0.165 mol) of 2-amino-4-fluorophenol is prepared in a 1 l reactor, with magnetic stirring, 14 ml of pyridine are added and the reaction medium is cooled with a mixture of ice and ethanol. 23.3 ml (0.165 mol) of trifluoroacetic anhydride are added dropwise over 1 h, the mixture is allowed to return to room temperature and stirring is continued for 3 h.

reactant | diethyl ether | 260 ml | C(C)OCC | C4H10O
reactant | 2-amino-4-fluorophenol | 0.165 mol, 21 g | NC1=C(C=CC(=C1)F)O | C6H6FNO
reactant | pyridine | 14 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 0.165 mol, 23.3 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | ethanol | C(C)O | C2H6O
product | N-(5-Fluoro-2-hydroxyphenyl)trifluoroacetamide | FC=1C=CC(=C(C1)NC(C(F)(F)F)=O)O | C8H5F4NO2
